US04599357
The starting material is prepared as follows: To the mixture of 10 g of 5-hydroxyindole-2-carboxylic acid, 29 g of triethylamine, 0.5 g of 4-dimethylaminopyridine and 50 ml of toluene, 23 g of acetic anhydride are added while stirring at room temperature. After 3 hours 150 ml of water are added and the mixture is stirred vigorously for 1 hour. The layers are separated, the organic phase is extracted with 50 ml of saturated aqueous sodium bicarbonate and the combined aqueous solutions washed with 100 ml of diethyl ether. They are acidified to pH=1 with concentrated hydrochloric acid, the precipitate formed is collected, washed 5 times with 50 ml of water and dried, to give the 1-acetyl-5-acetoxyindole-2-carboxylic acid melting at 142°-145°.

reactant | 5-hydroxyindole-2-carboxylic acid | 10 g | OC=1C=C2C=C(NC2=CC1)C(=O)O | C9H7NO3
reactant | triethylamine | 29 g | C(C)N(CC)CC | C6H15N
reactant | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetic anhydride | 23 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | 150 ml | O | H2O
catalyst | 4-dimethylaminopyridine | 0.5 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 1-acetyl-5-acetoxyindole-2-carboxylic acid | C(C)(=O)N1C(=CC2=CC(=CC=C12)OC(C)=O)C(=O)O | C13H11NO5
